US04337340
A mixture containing 4.5 g. of an isomer mixture comprising 2-[(1-ethyl-2-methyl-3-indolyl)carbonyl]-3-pyridinecarboxylic acid and 3-[(1-ethyl-2-methyl-3-indolyl)carbonyl]-2-pyridinecarboxylic acid, 2.5 g. of diphenylamine and 30 ml. of acetic anhydride was stirred 6.5 hours, then treated with one ml. of pyridine and allowed to stand overnight. The reaction mixture was poured into 750 ml. of water and the resulting solid product was purified by column chromatography affording 7-(1-ethyl-2-methyl-3-indolyl)-7-(diphenylamino)furo[3,4-b]pyridine-(5(7H)-one as a light orange solid, m.p. 132.5°-136° C. A toluene solution of the product contacted with acidic clay or phenolic resin developed an orange image.

reactant | 2-[(1-ethyl-2-methyl-3-indolyl)carbonyl]-3-pyridinecarboxylic acid | C(C)N1C(=C(C2=CC=CC=C12)C(=O)C1=NC=CC=C1C(=O)O)C | C18H16N2O3
reactant | 3-[(1-ethyl-2-methyl-3-indolyl)carbonyl]-2-pyridinecarboxylic acid | C(C)N1C(=C(C2=CC=CC=C12)C(=O)C=1C(=NC=CC1)C(=O)O)C | C18H16N2O3
reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-(1-ethyl-2-methyl-3-indolyl)-7-(diphenylamino)furo[3,4-b]pyridine | C(C)N1C(=C(C2=CC=CC=C12)C1(OCC=2C1=NC=CC2)N(C2=CC=CC=C2)C2=CC=CC=C2)C | C30H27N3O
